US06849648B2
Replacing 4-cyanobenzylamine hydrochloride in Example 4, Step (1), with 4-carboxy-benzylamine hydrochloride, and replacing the 1-propyn-3-yl-1H-[1,2,3]triazole in Example 4, Step (2), with 3-phenyl-propyne yielded 4-[[3-3-phenethylethynyl-benzoylamino]-methyl}-benzoic acid; 1H-NMR (DMSO-d6) δ 9.2 (m, 1H), 8.0 (s, 1H), 7.8 (m, 4H), 7.6 (d, 1H) 7.2-7.4 (m, 7H), 4.5 (d, 2H), 3.9 (s, 2H) ppm. Mp 209° C.-211° C.

reactant | 4-cyanobenzylamine hydrochloride | Cl.C(#N)C1=CC=C(CN)C=C1
reactant | 4-carboxy-benzylamine hydrochloride | Cl.C(=O)(O)C1=CC=C(CN)C=C1
reactant | 1-propyn-3-yl-1H-[1,2,3]triazole | C#CCN1N=NC=C1 | C5H5N3
product | 3-phenyl-propyne | C1(=CC=CC=C1)CC#C | C9H8
